US07253198B2
K2CO3 (31.6 g, 223 mmol, 2.23 equiv) and iodoethane (17.8 ml, 230 mmol, 2.3 equiv) were added to a solution of 5-hydroxy-isophthalic acid dimethyl ester (D42) (21 g, 100 mmol, 1 equiv) in acetone (500 ml) at room temperature. The resulting solution was refluxed for 16 h, then cooled to room temperature and concentrated in vacuo. The residue was partitioned between H2O and AcOEt. The aqueous phase was extracted with AcOEt and the combined organic layers were washed with 2N aqueous NaOH solution and brine, dried over MgSO4 and concentrated in vacuo to give 5-ethoxy-isophthalic acid dimethyl ester (D43) (23 g, 96%) as a white solid. RT=3.13 min

reactant | K2CO3 | 223 mmol, 31.6 g, 2.23 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 230 mmol, 17.8 ml, 2.3 equiv | ICC | C2H5I
reactant | 5-hydroxy-isophthalic acid dimethyl ester | 100 mmol, 21 g, 1 equiv | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 5-ethoxy-isophthalic acid dimethyl ester | 23 g, 96% | COC(C1=CC(C(=O)OC)=CC(=C1)OCC)=O | C12H14O5
